US04182829
581 g of hexamethylene-diisocyanate are initially introduced into a 2 l round-bottomed flask, with a dropping funnel, stirrer and a device for introducing air, and a mixture consisting of 504 g of hydroxypropylmethacrylate, 1.12 g of phenothiazine and 5.3 g of a tin octoate solution (Desmorapid SO, Bayer AG) is added slowly at 60° C., whilst passing air through. After the exothermic reaction has subsided, this condensation product is stirred, at 60° C. and while passing air through, into 4,559 g of a linear polyester obtained from adipic acid and diethylene glycol (MW=2,100, hydroxyl number=40±5). After a reaction time of 10 hours at 60° C., the content of NCO groups which could be analytically determined was 0.14%. After cooling the reaction product, a viscous resin resulted.

reactant | hydroxypropylmethacrylate | 504 g | OCCCOC(C(=C)C)=O | C7H12O3
reactant | phenothiazine | 1.12 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | tin octoate | 5.3 g | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
